* C:\Users\joa-m\InformesTC\TP2\EJ5\LTSPICE\punto 5 senoide.asc
R1 N005 +VCC 220k
R2 0 N005 220k
R3 N001 N002 22k
R4 vt1 N002 47k
R5 vt2 N004 10k
C1 N005 Vin 100nf
C4 out 0 820p
R8 Vin 0 1Meg
V2 +VCC 0 9
V3 Vin 0 SINE(0 1 1K) AC 10
R6 out vt2 680
C5 +VCC 0 100n
C6 +VCC 0 33µf
R7 N006 0 99k
R9 out N006 0.1k
C2 N001 0 680nf
XU1 N005 N002 +VCC 0 vt1 TL082 TL082
D1 vt2 0 1N4148
D2 0 vt2 1N4148
C3 N004 vt1 100nf
R10 N003 0 8
XU2 N006 N003 +VCC 0 N003 TL082 TL082
.model D D
.lib C:\Users\joa-m\Documents\LTspiceXVII\lib\cmp\standard.dio
.inc "C:\Users\joa-m\InformesTC\TP2\EJ5\LTSPICE\Models\TL082\TL082.301"
.inc "C:\Users\joa-m\InformesTC\TP2\EJ5\LTSPICE\Models\1N4148\1n4148.sub"
.inc "opamp.sub"
.ac dec 100 10 30k
.backanno
.end
