* C:\Users\joa-m\InformesTC\TP2\EJ5\LTSPICE\punto 5 senoide.asc
R1 N004 +VCC 220k
R2 0 N004 220k
R3 N001 N002 10k
R4 vt1 N002 220k
R5 vt2 N003 1k
C1 N004 Vin 100nf
C4 out 0 3.3nf
R8 Vin 0 1Meg
V2 +VCC 0 9
V3 Vin 0 SINE(0 1 1K) AC 1
R6 out vt2 1k
C5 +VCC 0 100n
C6 +VCC 0 33µf
R7 out 0 100k
C2 N001 0 1µf
XU1 N004 N002 +VCC 0 vt1 TL082 TL082
C3 N003 vt1 100nf
D1 vt2 0 1N4148
D2 0 vt2 1N4148
.model D D
.lib C:\Users\joa-m\Documents\LTspiceXVII\lib\cmp\standard.dio
.inc "C:\Users\joa-m\InformesTC\TP2\EJ5\LTSPICE\Models\TL082\TL082.301"
.inc "C:\Users\joa-m\InformesTC\TP2\EJ5\LTSPICE\Models\1N4148\1n4148.sub"
.inc "opamp.sub"
.ac dec 0.1 10 1Meg
.backanno
.end
